US09193724B2
Step A. 2-(5-bromo-3-pyridinyl)-2-propanol
To a 5000-mL 4-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen was added a solution of 3,5-dibromopyridine (264 g, 1.12 mol) in toluene (3000 mL). The solution was cooled to −78° C., and a solution of n-butyllithium in hexanes (2.6 M, 475 mL, 1.24 mol) was then added, giving a solution that was stirred for 2 hours at −78° C. Acetone (108 g, 1.86 mol) was then added. After 1 hour, the reaction mixture was quenched by addition of 350 mL saturated aqueous ammonium chloride solution. The resulting solution was extracted with ethyl acetate. The organic extracts were combined, dried over anhydrous sodium sulfate and concentrated under reduced pressure. Purification by flash chromatography on silica gel (ethyl acetate/petroleum ether 1:10-1:5) provided the title compound: 1H NMR (400 MHz, CDCl3): δ 8.63 (s, 1H), 8.56 (s, 1H), 8.01 (s, 1H), 1.61 (s, 6H).

reactant | 3,5-dibromopyridine | 1.12 mol, 264 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | n-butyllithium | C(CCC)[Li]
reactant | Acetone | 1.86 mol, 108 g | CC(=O)C | C3H6O
solvent | toluene | 3000 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(5-bromo-3-pyridinyl)-2-propanol | BrC=1C=C(C=NC1)C(C)(C)O | C8H10BrNO
